US04011218
Sodium (0.4 grams) is added to pyridine-4-carbonitrile (8.3 grams, 0.08 mole) in methanol, and the solution is allowed to stand 30 minutes at room temperature. A suspension of pyrazine carboxylic acid hydrazide (9.6 grams, 0.07 mole) in methanol (160 ml.) is added, and the resulting solution is heated at reflux for 30 minutes. After cooling, the intermediate acylamidrazone is collected by filtration. The acyclic intermediate is then heated at 260° C. for 15 minutes, after which the reaction is cooled to room temperature. Upon recrystallization from acetonitrile-water, 3-pyrazinyl-5-(4-pyridyl)-1,2,4-triazole is obtained, m.p. 251°-252.5° C.

reactant | Sodium | 0.4 grams | [Na] | Na
reactant | pyridine-4-carbonitrile | 0.08 mole, 8.3 grams | N1=CC=C(C=C1)C#N | C6H4N2
reactant | pyrazine carboxylic acid hydrazide | 0.07 mole, 9.6 grams | N1=C(C=NC=C1)C(=O)NN | C5H6N4O
solvent | methanol | CO | CH4O
solvent | methanol | 160 ml | CO | CH4O
product | 3-pyrazinyl-5-(4-pyridyl)-1,2,4-triazole | N1=C(C=NC=C1)C1=NNC(=N1)C1=CC=NC=C1 | C11H8N6
